US04177141
The cock was opened to pass water into the cooling pipe 29, and the flask 30 charged with 600 ml of isoamyl alcohol and 60 g of concentrated sulfuric acid was heated. In a short time, the content of the flask was boiled and a suspended distillate was stored in the flask 31. When the filter medium A was covered with this distillate, the liquid feed pump 32 was operated, whereby a transparent liquid (isoamyl alcohol having a boiling point of 130° C.) was flowed into the reaction flask 30, and the volume of water left in the bottom of the flask 31 was increased. Occasionally, the glass pipe 33 was taken up so that the lower half of the filter medium A located near the top end of the glass pipe 33 was immersed in the surface portion of the distillate. When the reaction was advanced in this state, no fresh distillate was obtained any more in about 5 hours. Accordingly, the heating was stopped, and steam was blown into the reaction flask 30. The obtained distillate was distilled to obtain 275 g of isoamyl ether (having a boiling point of 172° C.).

reactant | isoamyl alcohol | 600 ml | C(CC(C)C)O | C5H12O
reactant | sulfuric acid | 60 g | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | isoamyl ether | 275 g | C(CC(C)C)OCCC(C)C | C10H22O
